US08003662B2
Step C: Preparation of 5-bromo-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one:
A mixture of 5-bromo-2-chloro-3-methylpyrimidin-4(3H)-one (0.510 g, 2.282 mmol), aniline (0.271 ml, 2.967 mmol) and NaHCO3 (0.767 g, 9.129 mmol) in n-BuOH (15 mL) was stirred at 60° C. for 16 hours. The reaction mixture was cooled to room temperature and then diluted with EtOAc. The EtOAc layer was washed with H2O and saturated aqueous NaCl. The aqueous phase was re-extracted with EtOAc (1×). The combined EtOAc layers were dried (Na2SO4), filtered and concentrated to yield the desired product (0.636 g, 99%) as a pale yellow solid that was used without further purification. 1H NMR (400 MHz, DMSO-d6) δ 8.95 (br s, 1H), 7.94 (s, 1H), 7.47 (m, 2H), 7.35 (m, 2H), 7.14 (m, 1H), 3.53 (s, 3H). LRMS (ESI pos) m/e 280, 281 (M+, Br pattern).

reactant | 5-bromo-2-chloro-3-methylpyrimidin-4(3H)-one | 2.282 mmol, 0.510 g | BrC=1C(N(C(=NC1)Cl)C)=O | C5H4BrClN2O
reactant | aniline | 2.967 mmol, 0.271 ml | NC1=CC=CC=C1 | C6H7N
reactant | NaHCO3 | 9.129 mmol, 0.767 g | C(=O)(O)[O-].[Na+]
solvent | n-BuOH | 15 mL | CCCCO | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-bromo-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 0.636 g, 99% | BrC=1C(N(C(=NC1)NC1=CC=CC=C1)C)=O | C11H10BrN3O
